US04634689
(A) 4-Cyanobenzoic Acid, (1,1-Dimethylethyl) Ester
Dissolve 22.1 g 4-cyanobenzoic acid and 28.2 ml t-butanol in 500 ml DMF. Add 9.15 g 4-(dimethylamino) pyridine and 31.5 g 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride. Stir the mixture overnight at RT. Remove the DMF in vacuo, and partition the resultant residue between ethyl acetate and water. Wash the organic layer successively with cold 0.5 N aqueous HCl, water, 5% aqueous NaHC03 and brine. Dry the organic layer over MgSO4 and evaporate the solvent to obtain the title compound. m.p. 75°-78° C. Rf (silica gel; 5% EtOAc in hexane)=0.3; IR 2240 cm-1 ; 1730 cm-1.

reactant | 4-cyanobenzoic acid | 22.1 g | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
reactant | t-butanol | 28.2 ml | C(C)(C)(C)O | C4H10O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 31.5 g | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
catalyst | 4-(dimethylamino) pyridine | 9.15 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-Cyanobenzoic Acid, (1,1-Dimethylethyl) Ester | C(#N)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H13NO2
